US07960561B2
N-(Benzoimidazol-2-yl)-2-phenylaniline
The title compound was prepared from 2-chlorobenzimidazole and 2-amino-biphenyl by Procedure A. The crude product was purified by preparative LCMS to give the title compound as the free base (white solid, mp 152-154° C.). MS(ES+) m/z 286 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 2-amino-biphenyl | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
product | N-(Benzoimidazol-2-yl)-2-phenylaniline | N1=C(NC2=C1C=CC=C2)NC2=C(C=CC=C2)C2=CC=CC=C2 | C19H15N3
